US07101880B2
6-Oxa-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (12.1 g, 65.3 mmol) was dissolved in a 8:1 methanol/water mixture (108 mL). Ammonium chloride (15 g) and sodium azide (21.4 g, 329 mmol) was added and the reaction mixture was heated at 60° C. overnight. After dilution with ether (500 mL), the reaction mixture was washed with saturated aqueous NaHCO3 (200 mL) and brine (200 mL), dried with MgSO4 and evaporated under vacuum. The crude product was dissolved in methanol (200 mL). 10% Palladium on activated carbon (1.5 g) was added and the reaction mixture was stirred at ambient temperature under a hydrogen atmosphere until TLC analysis showed the disappearance of the starting material. The reaction mixture was filtered through a pad of Celite and evaporated to dryness under vacuum. The product was purified by flash chromatography on silica gel using 5% methanol in ethyl acetate to 20% methanol, 3% triethylamine in ethyl acetate to give 4.3 g of 3-amino-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester as yellowish solid.

reactant | 6-Oxa-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 65.3 mmol, 12.1 g | C(C)(C)(C)OC(=O)N1CC2OC2C1 | C9H15NO3
reactant | Ammonium chloride | 15 g | [Cl-].[NH4+]
reactant | sodium azide | 329 mmol, 21.4 g | [N-]=[N+]=[N-].[Na+]
solvent | methanol water | 108 mL | CO.O
product | 3-amino-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.3 g | C(C)(C)(C)OC(=O)N1CC(C(C1)O)N | C9H18N2O3
